US04600724
5-(1-Methylethenyl)-1-naphthalenecarboxylic Acid (V, R3 =5--CH2 =C(CH3) and R4 and R5 =H).
In a nitrogen atmosphere, a solution of 1-bromo-5-(1-methylethenyl)-naphthalene [14.21 g, described by W. F. Short and H. Wang, J. Chem. Soc., 991 (1950)] in diethyl ether (140 ml) was added dropwise to a mixture of ethyl magnesium bromide (prepared from 2.94 g of magnesium and 4.29 ml of ethyl bromide) in diethyl ether (30 ml) at 0° C. The mixture was stirred at 20° C. for 18 hr and then heated at reflux for 1 hr. The cooled solution was poured onto an excess of solid carbon dioxide. The mixture was dissolved in diethyl ether. The resulting solution was washed with a 2N aqueous solution of H2SO4, brine and 10% aqueous NaHCO3 (4x). The basic washes were combined and made acidic (pH 3) with 6N aqueous HCl. The resulting solid was collected, washed with water and dried to give 9.7 g of the title compound; mp 138°-140° C.; NMR(CDCl3) δ 2.15 (s, 3H), 5.0 & 5.38 (2s, 2H), 8.0 (m, 6H), 10.75 (s, 1H).

reactant | 1-bromo-5-(1-methylethenyl)-naphthalene | 14.21 g | BrC1=CC=CC2=C(C=CC=C12)C(=C)C | C13H11Br
reactant | ethyl magnesium bromide | 4.29 ml, 2.94 g | C(C)[Mg]Br
reactant | carbon dioxide | C(=O)=O | CO2
solvent | diethyl ether | 140 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 30 ml | C(C)OCC | C4H10O
product | 5-(1-Methylethenyl)-1-naphthalenecarboxylic Acid | 9.7 g | CC(=C)C1=C2C=CC=C(C2=CC=C1)C(=O)O | C14H12O2
